US04221814
The procedure of Example 10 was repeated for reacting 2-(4-butoxycarbonylbenzamido)-4-aminobenzoic acid with propionic anhydride, and the reaction product was treated as in Example 10 except that the solvent for recrystallization was a mixture of water and dioxane. The product obtained was a 60% yield of 2-(4-butoxycarbonylbenzamido)-4-propionamidobenzoic acid having a melting point in the range of from 184° to 187° C.

reactant | 2-(4-butoxycarbonylbenzamido)-4-aminobenzoic acid | C(CCC)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)N)C=C1 | C19H20N2O5
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-butoxycarbonylbenzamido)-4-propionamidobenzoic acid | 60% yield | C(CCC)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(CC)=O)C=C1 | C22H24N2O6
